US08686022B2
5-tert-butyl-2-methoxy-1-methylsulphanyl-3-nitro-benzene
2 g 5-tert-butyl-2-methoxy-3-nitro-phenylamine are dissolved in 20 ml acetonitrile, combined successively with 3.6 ml isopentylnitrite as well as 2.4 ml dimethyldisulphide and refluxed for 2 h. The solvents are eliminated in vacuo and the residue is chromatographed on silica gel (petroleum ether/ethyl acetate 90:10).

reactant | 5-tert-butyl-2-methoxy-3-nitro-phenylamine | 2 g | C(C)(C)(C)C=1C=C(C(=C(C1)N)OC)[N+](=O)[O-] | C11H16N2O3
reactant | isopentylnitrite | 3.6 ml | C(CC(C)C)ON=O | C5H11NO2
reactant | dimethyldisulphide | 2.4 ml | CSSC | C2H6S2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-tert-butyl-2-methoxy-1-methylsulphanyl-3-nitro-benzene | C(C)(C)(C)C=1C=C(C(=C(C1)SC)OC)[N+](=O)[O-] | C12H17NO3S
